US04618627
By following the procedure as in Reference Example 17(c) using 4-benzyloxy-3-methoxybenzaldehyde and 10-benzyloxy-1-chlorodecane, 11-benzyloxy-1-(4-benzyloxy-3-methoxyphenyl)-1-undecanol was obtained.

reactant | 4-benzyloxy-3-methoxybenzaldehyde | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OC | C15H14O3
reactant | 10-benzyloxy-1-chlorodecane | C(C1=CC=CC=C1)OCCCCCCCCCCCl | C17H27ClO
product | 11-benzyloxy-1-(4-benzyloxy-3-methoxyphenyl)-1-undecanol | C(C1=CC=CC=C1)OCCCCCCCCCCC(O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)OC | C32H42O4
